US06458784B1
a) Methyl (±)-8-[(benzyloxycarbonyl)amino]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
To a solution stirred under argon at room temperature of methyl (±)-8-carboxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-2-benzazepine-4-acetate (0.30 g, 1 mmol) and triethylamine (0.16 mL, 1.2 mmol) in toluene was added diphenylphosphorylazide (0.31 g, 1.2 mmol). The resulting mixture was heated at 80° C. for 1 h, then was allowed to cool, and benzyl alcohol (0.22 g, 2 mmol) was added. The mixture was heated at 80° C. for 4 h, then was concentrated to remove the toluene. The residue was dissolved in EtOAc, and the solution was washed sequentially with 5% aqueous NaHCO3, 1N HCl, and brine. Drying (MgSO4), concentration, and chromatography (silica gel, 1% MeOH/CH2Cl2) gave the title compound as a colorless solid (0.20 g, 47%): 1H NMR (CDCl3) δ7.40-7.30 (m, 6H), 7.06 (dd, J=8.3, 2 Hz, 1H), 7.02 (d, J=8.3 Hz, 1H), 6.65 (br s, 1H), 5.28 (d, J=16.7 Hz, 1H), 5.20 (s, 2H), 3.80 (m, 1H), 3.79 (d, J=16.7 Hz, 1H), 3.70(s, 3H), 3.03 (s, 3H), 3.00 (m, 2H), 2.88 (m, 1H), 2.41 (dd, J=16.8, 5.3, 1H).

reactant | methyl (±)-8-carboxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-2-benzazepine-4-acetate | 1 mmol, 0.30 g | C(=O)(O)C1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C15H17NO5
reactant | triethylamine | 1.2 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 1.2 mmol, 0.31 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 2 mmol, 0.22 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Methyl (±)-8-[(benzyloxycarbonyl)amino]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.20 g, 47% | C(C1=CC=CC=C1)OC(=O)NC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C22H24N2O5
